US07825123B2
Step 7: trans-4-[2-(4-Isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexylamine dihydrochloride (Intermediate G)
{trans-4-[2-(4-Isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester (930 mg, 2.2 mmol) was dissolved in CH2Cl2 (3 ml) and 4 N HCl in dioxane (10.8 ml, 43 mmol) was added. The resulting mixture was stirred 16 h at r.t. After dilution with iPr2O the product was collected by filtration and washed with one portion of iPr2O before drying it under high vacuum at 50° C. to obtain 686 mg (79%) as a white solid. m/z=330.3 ([M+H]+).

reactant | {trans-4-[2-(4-Isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester | 2.2 mmol, 930 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NOC2=C1C=NC=C2)=O | C23H35N5O3
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 43 mmol, 10.8 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | trans-4-[2-(4-Isoxazolo[4,5-c]pyridin-3-yl-piperazin-1-yl)-ethyl]-cyclohexylamine dihydrochloride | Cl.Cl.O1N=C(C=2C=NC=CC21)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N | InChI=1S/C18H27N5O.2ClH/c19-15-3-1-14(2-4-15)6-8-22-9-11-23(12-10-22)18-16-13-20-7-5-17(16)24-21-18;;/h5,7,13-15H,1-4,6,8-12,19H2;2*1H/t14-,15-;;
